US04556413
from chloroacetic acid, dimethyl sulphoximine and 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoic acid using 1,5-diaza-bicyclo[5,4,0]undec-5-ene as the base and toluene as the solvent there is obtained N-{[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyloxy]acetyl}-S,S-dimethyl-sulphoximine as a yellow resin; 1H-NMR (CDCl3): 8.23-6.92 (m, 6H), 4.87 (s,2H), 3.37 (s,6H);

reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | dimethyl sulphoximine | CS(=O)(=N)C | C2H7NOS
reactant | 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoic acid | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | 1,5-diaza-bicyclo[5,4,0]undec-5-ene | N12CCCN=CC2CCCC1 | C9H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyloxy]acetyl}-S,S-dimethyl-sulphoximine | ClC1=C(OC=2C=CC(=C(C(=O)OCC(=O)N=S(=O)(C)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H14ClF3N2O7S
